US07524843B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-3-yl methyl)acrylamide
EDC (0.35 g, 1.89 mmole) was added to a solution of 3-(6-aminopyridin-3-yl)acrylic acid (0.31 g, 1.89 mmole), 1-methyl-3-(methylaminomethyl)-1H-indole (0.30 g, 1.72 mmole), HOBt H2O (0.24 g, 1.89 mmole) and diisopropylethylamine (0.60 mL, 3.44 mmole) in DMF (20 mL) at RT. The reaction was stirred overnight, then was concentrated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine and dried over Na2SO4. Flash chromatography on silica gel (5% MeOH/CHCl3) gave the title compound (0.30 g, 55%) as a light yellow solid: MS (ES) m/e 321 (M+H)+.

reactant | EDC | 1.89 mmole, 0.35 g
reactant | 3-(6-aminopyridin-3-yl)acrylic acid | 1.89 mmole, 0.31 g | NC1=CC=C(C=N1)C=CC(=O)O | C8H8N2O2
reactant | 1-methyl-3-(methylaminomethyl)-1H-indole | 1.72 mmole, 0.30 g | CN1C=C(C2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt H2O | 1.89 mmole, 0.24 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | diisopropylethylamine | 3.44 mmole, 0.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (E)-3-(6-aminopyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-3-yl methyl)acrylamide | 0.30 g, 55% | NC1=CC=C(C=N1)/C=C/C(=O)N(CC1=CN(C2=CC=CC=C12)C)C | C19H20N4O
